US07728141B2
Step D: 6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-2-(methylamino)pyridine-3-carbonitrile
To 2-chloro-6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyridine-3-carbonitrile (2.03 g) in THF (14 mL) was added H2NCH3 (13 mL, 2 M solution in THF). The reaction was heated to 67° C. in a closed vessel for 9 hours before concentrating. The product was dissolved in EtOAc and washed with saturated aqueous NaHCO3 solution. The solution was concentrated and purified via flash chromatography on silica gel with a gradient elution of 0% to 10% EtOAc in hexane affording the title compound. HPLC/MS: 387.8(M+1), 389.8 (M+3); Rt=4.26 min.

reactant | 2-chloro-6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyridine-3-carbonitrile | 2.03 g | ClC1=NC(=C(C=C1C#N)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C18H8Cl4N2
reactant | H2NCH3 | 2 M, 13 mL | NC | CH5N
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-2-(methylamino)pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=C(C=C(C(=N1)NC)C#N)C1=CC=C(C=C1)Cl | C19H12Cl3N3
